US07091228B2
trans-2-({4′-[(5-Fluoro-1,3-benzothiazol-2-yl)amino]-1,1′-biphenyl-4-yl}carbonyl)-cyclopentanecarboxylic acid
A solution of 1 N aqueous sodium hydroxide solution (1 mL) was added to trans-methyl 2-({4′-[(5-fluoro-1,3-benzothiazol-2-yl)amino]-1,1′-biphenyl-4-yl}carbonyl)cyclopentane-carboxylate (55 mg, 0.12 mmol) in THF (2 mL). Methanol was added until the mixture became homogeneous, and the resulting solution was heated at 60° C. for 1 h. The reaction was concentrated under reduced pressure to remove excess solvents, and the residue was partitioned between water and chloroform/isopropanol (4:1). The aqueous layer was adjusted to pH 2 by addition of aqueous phosphoric acid solution, with stirring. The organic layer was then separated, dried (Na2SO4), and concentrated under reduced pressure. The residue was suspended in acetone, and the resulting solid was collected by filtration and dried in vacuo to provide the title compound (45 mg, 84%). 1H NMR (300 MHz, acetone-d6) δ 10.40–10.10 (br s, 1 H), 8.15 (d, 2 H), 8.01 (d, 2 H), 7.87–7.82 (m, 5 H), 7.41 (dd, 1 H), 7.05–6.95 (m, 1 H), 4.26–4.17 (m, 1 H), 3.43–3.34 (m, 1 H), 2.31–2.23 (m, 1 H), 1.98–1.70 (m, 5 H); LC-MS m/z 461.3 (MH+), retention time 3.56 minutes.

reactant | sodium hydroxide | 1 N, 1 mL | [OH-].[Na+]
reactant | trans-methyl 2-({4′-[(5-fluoro-1,3-benzothiazol-2-yl)amino]-1,1′-biphenyl-4-yl}carbonyl)cyclopentane-carboxylate | 0.12 mmol, 55 mg | FC=1C=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(=O)[C@H]2[C@@H](CCC2)C(=O)OC)C1 | C27H23FN2O3S
reactant | Methanol | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | trans-2-({4′-[(5-Fluoro-1,3-benzothiazol-2-yl)amino]-1,1′-biphenyl-4-yl}carbonyl)-cyclopentanecarboxylic acid | 45 mg, 84% | FC=1C=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(=O)[C@H]2[C@@H](CCC2)C(=O)O)C1 | C26H21FN2O3S
